US04537698
2.49 g of 1-(4-carboxycyclohexyl)-4-pentylpiperidine (m.p. 208°) is boiled for 1 hour together with 2.4 g of SOCl2 ; the mixture is evaporated to dryness; the crude acid chloride obtained is dissolved in 15 ml of toluene; 1 ml of pyridine and 1.42 g of 4-propylcyclohexanol are added; and the mixture is boiled for 2 hours. Water is then added. The phases are separated, and the organic phase is washed with water, dried over Na2SO4 and evaporated to dryness, to give 1-[trans-4-(trans-4-propylcyclohexyloxycarbonyl)-cyclohexyl]-4-pentylpiperidine.

reactant | 1-(4-carboxycyclohexyl)-4-pentylpiperidine | 2.49 g | C(=O)(O)C1CCC(CC1)N1CCC(CC1)CCCCC | C17H31NO2
reactant | SOCl2 | 2.4 g | O=S(Cl)Cl | Cl2OS
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-propylcyclohexanol | 1.42 g | C(CC)C1CCC(CC1)O | C9H18O
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | Water | O | H2O
product | 1-[trans-4-(trans-4-propylcyclohexyloxycarbonyl)-cyclohexyl]-4-pentylpiperidine | C(CC)[C@@H]1CC[C@H](CC1)OC(=O)[C@@H]1CC[C@H](CC1)N1CCC(CC1)CCCCC | C26H47NO2
